US09126931B2
2-(1-Benzo[b]thiophen-2-yl-1-methyl-ethyl)-4-methoxy-benzoic acid
2-[1-(2-Bromo-5-methoxy-phenyl)-1-methylethyl]-benzo[b]thiophene (Compound Z3, 40 mg, 0.11 mmol) was dissolved in tetrahydrofuran (0.5 mL), cooled to −78° C., added with n-butyl lithium (1.57 M, hexane solution, 0.07 mL), and the mixture was stirred for 10 min. The reaction mixture was added with dry ice and then maintained for 1 hr. After that, the mixture was added with 0.5 N hydrochloric acid, extracted with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (22 mg, 55%).

reactant | 2-[1-(2-Bromo-5-methoxy-phenyl)-1-methylethyl]-benzo[b]thiophene | 0.11 mmol, 40 mg | BrC1=C(C=C(C=C1)OC)C(C)(C)C1=CC2=C(S1)C=CC=C2 | C18H17BrOS
reactant | n-butyl lithium | 1.57 M, 0.07 mL | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 2-(1-Benzo[b]thiophen-2-yl-1-methyl-ethyl)-4-methoxy-benzoic acid | 22 mg, 55% | S1C2=C(C=C1C(C)(C)C1=C(C(=O)O)C=CC(=C1)OC)C=CC=C2 | C19H18O3S
